US07498460B2
1-(5-Carboxy-2-{3-[4-(3-cyclohexylpropoxy)phenyl]propoxy}benzoyl)piperidine-4-carboxylic acid
Absolution of 10.4 g of methyl 1-[2-{3-[4-(3-cyclohexylpropoxy)phenyl]propoxy}-5-(methoxycarbonyl)benzoyl]piperidine-4-carboxylate in a mixture of 160 ml of THF and 160 ml of methanol is mixed with 160 ml of 2 molar sodium hydroxide solution and stirred at a temperature of 60° C. for 1 hour. The organic solvents are then removed as far as possible in a rotary evaporator. 165 ml of 2 molar hydrochloric acid are added to the remaining aqueous solution with stirring. A precipitate separates out. Precipitation is completed by stirring at 0° C. The precipitate is filtered off with suction and washed with water. The crude product is purified by recrystallization from a solvent mixture composed of 250 ml of acetone and 200 ml of water. 8.7 g of a solid are obtained and are again heated to reflux in a mixture of 300 ml of water and 100 ml of acetone for 6 hours. Cooling to 0° C., filtration, washing with water and drying result in 8.6 g of a solid.

reactant | methyl 1-[2-{3-[4-(3-cyclohexylpropoxy)phenyl]propoxy}-5-(methoxycarbonyl)benzoyl]piperidine-4-carboxylate | 10.4 g | C1(CCCCC1)CCCOC1=CC=C(C=C1)CCCOC1=C(C(=O)N2CCC(CC2)C(=O)OC)C=C(C=C1)C(=O)OC | C34H45NO7
reactant | sodium hydroxide | 2 molar, 160 ml | [OH-].[Na+]
solvent | THF | 160 ml | C1CCOC1 | C4H8O
solvent | methanol | 160 ml | CO | CH4O
product | 1-(5-Carboxy-2-{3-[4-(3-cyclohexylpropoxy)phenyl]propoxy}benzoyl)piperidine-4-carboxylic acid | 8.7 g | C(=O)(O)C=1C=CC(=C(C(=O)N2CCC(CC2)C(=O)O)C1)OCCCC1=CC=C(C=C1)OCCCC1CCCCC1 | C32H41NO7
